US07968538B2
1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanol
7-Chloro-2,3-dihydrobenzo[b][1,4]dioxine-5-carbaldehyde (0.26 g, 1.32 mmol) was dissolved in 10 mL of diethyl ether and cooled to 0° C. MeMgBr (1.1 mL, 3.31 mmol) was added to the solution and the ice bath was removed. The reaction was allowed to stir at rt for 10 min. and at reflux for 30 min. The reaction was cooled to 0° C. and 10 mL of sat NH4Cl were added to quench the reaction. The diethyl ether layer was separated and washed with water (20 mL×2). The organic layer was dried over Na2SO4 and the solvent was removed by rotary evaporation to collect the desired product (258 mg, 91%). 1H NMR (400 MHz, CDCl3): δ 6.91 (s, 1H), 6.77 (s, 1H), 5.02 (m, 1H), 4.24 (m, 4H), 1.45 (d, 3H).

reactant | 7-Chloro-2,3-dihydrobenzo[b][1,4]dioxine-5-carbaldehyde | 1.32 mmol, 0.26 g | ClC=1C=C(C2=C(OCCO2)C1)C=O | C9H7ClO3
reactant | MeMgBr | 3.31 mmol, 1.1 mL | C[Mg+].[Br-]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanol | ClC1=CC2=C(OCCO2)C(=C1)C(C)O | C10H11ClO3
